* source PROJECT
R_R3         N06426 N06382 R_R3 2.67k TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
R_R15         OUT N11467 R_R15 6.6k TC=0,0 
.model        R_R15 RES R=1 DEV=1% TC1=0 TC2=0
V_V3         VCC 0 14
R_R10         0 N19270 R_R10 1k TC=0,0 
.model        R_R10 RES R=1 DEV=1% TC1=0 TC2=0
R_R9         N19685 VCC R_R9 49.9 TC=0,0 
.model        R_R9 RES R=1 DEV=1% TC1=0 TC2=0
R_R7         N06648 OUT R_R7 6.19k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
R_R6         VREF2 N06648 R_R6 1k TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
R_R12         N06802 0  30k TC=0,0 
R_R5         N19270 N06862 R_R5 2.67k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
R_R8         N06708 OUT R_R8 121 TC=0,0 
.model        R_R8 RES R=1 DEV=1% TC1=0 TC2=0
R_Rs         0 N28312  {r} TC=0,0 
R_R4         N06426 VREF1 R_R4 1k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
V_V2         -VCC 0 -14
R_R16         VCC N16310  1k TC=0,0 
R_R17         N16310 N16327  140 TC=0,0 
R_R18         N16327 N16447  1k TC=0,0 
R_R19         N16447 VREF1  1k TC=0,0 
R_R22         VCC N17785  1k TC=0,0 
R_R23         N17793 N17817  1k TC=0,0 
R_R20         N17785 N17793  442 TC=0,0 
R_R21         N17817 VREF2  1k TC=0,0 
Q_T3         N19685 N11467 0 Q2N2222
D_D1          N06708 0 REDLED 
X_U1A         N28312 N06862 VCC -VCC N06862 TL082
X_U1B         N06648 N06382 VCC -VCC OUT TL082
X_U2A         0 N16310 VCC -VCC N16327 TL082
X_U2B         0 N16447 VCC -VCC VREF1 TL082
X_U3A         0 N17785 VCC -VCC N17793 TL082
X_U3B         0 N17817 VCC -VCC VREF2 TL082
X_U4A         N19270 N06426 VCC -VCC N06382 TL082
Q_Q1         N06802 N06802 VCC Q2N1132A
Q_Q2         N28312 N06802 VCC Q2N1132A
V_V4         N38499 0 5
D_D2          N38527 0 REDLED 
R_R24         N38527 N38499 R_R24 121 TC=0,0 
.model        R_R24 RES R=1 DEV=1% TC1=0 TC2=0
.PARAM  r=17k
