* source TEST
.EXTERNAL OUTPUT VDC
.EXTERNAL OUTPUT -VDC
R_R1         N00101 DC  1k TC=0,0 
R_R2         0 N00101  5.66k TC=0,0 
V_V1         DC 0 14
R_R3         N00390 N00408  1k TC=0,0 
R_R4         N00390 VREF  1k TC=0,0 
R_R5         N00439 N00454  1k TC=0,0 
R_R6         N00408 N00412  1k TC=0,0 
R_R7         N00412 N00491  1k TC=0,0 
R_R8         N02107 N00491  1k TC=0,0 
R_R9         N00599 DC  420 TC=0,0 
Q_Q1         N00599 N005830 0 PN2221
R_R10         0 N00439  1k TC=0,0 
R_R11         N00733 0  {r} TC=0,0 
R_R12         DC N00737  10k TC=0,0 
Q_Q2         N02081 N02013 N00733 PN5137
Q_Q3         N00737 N02013 N02013 PN2221
R_R13         N02081 DC  30k TC=0,0 
R_R14         0 N02013  100k TC=0,0 
V_V2         -VDC 0 -14
V_V3         VDC 0 14
R_R15         N00491 N005830  1k TC=0,0 
D_D2         N02107 0 Dbreak 
X_U1A         VREF N00412 -VDC VDC N00491 TL084
X_U1B         N00390 N00439 VDC -VDC N00408 TL084
X_U1C         N00733 N00454 VDC -VDC N00454 TL084
X_U1D         N00101 VREF VDC -VDC VREF TL084
.PARAM  r=1
